US08106221B2
tert-butyl (S)-2-(3-((R)-3-(2-(methoxycarbonylamino)ethoxy)-3-(3-chlorophenyl)propyl)-3-methylureido)-3-cyclohexylpropyl(methyl)carbamate (40 mg) was dissolved in a solution of 20% (V/V) TFA/CH2Cl2 (5 mL). The reaction mixture was concentrated in vacuo. The residue was purified by Preparative HPLC to afford isomer 1 methyl (4S,10R)-10-(3-chlorophenyl)-4-(cyclohexylmethyl)-7-methyl-6-oxo-11-oxa-2,5,7-triazatridecan-13-ylcarbamate (8.88 mg, 27%) LC-MS (3 min) tR=2.195 m/z=497. 1H NMR (CD3OD) d 0.99 (m, 2H), 1.54 (m, 1H), 1.70 (m, 4H), 1.87 (m, 3H), 2.73 (s, 3H), 2.94 (s, 3H), 3.09 (m, 1H), 3.63 (s, 3H), 4.26 (m, 2H), 7.29 (m, 4H). isomer 1 methyl (4S,10R)-10-(3-chlorophenyl)-4-(cyclohexylmethyl)-7-methyl-6-oxo-11-oxa-2,5,7-triazatridecan-13-ylcarbamate and isomer 2 methyl (4S,10S)-10-(3-chlorophenyl)-4-(cyclohexylmethyl)-7-methyl-6-oxo-11-oxa-2,5,7-triazatridecan-13-ylcarbamate. LC-MS (3 min) tR=2.149 m/z=497. 1H NMR (CD3OD) d 0.96 (m, 2H), 1.25 (m, 5H), 1.54 (m, 1H), 1.69 (m, 4H), 1.89 (m, 3H), 2.71 (s, 3H), 2.93 (s, 3H), 3.06 (m, 1H0, 3.64 (s, 3H), 4.14 (m, 1H), 4.30 (m, 1H), 7.31 (m, 4H).

reactant | tert-butyl (S)-2-(3-((R)-3-(2-(methoxycarbonylamino)ethoxy)-3-(3-chlorophenyl)propyl)-3-methylureido)-3-cyclohexylpropyl(methyl)carbamate | 40 mg | COC(=O)NCCO[C@H](CCN(C(N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1)=O)C)C1=CC(=CC=C1)Cl | C30H49ClN4O6
solvent | TFA CH2Cl2 | 5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | methyl (4S,10R)-10-(3-chlorophenyl)-4-(cyclohexylmethyl)-7-methyl-6-oxo-11-oxa-2,5,7-triazatridecan-13-ylcarbamate | 8.88 mg, 27% | ClC=1C=C(C=CC1)[C@@H](CCN(C(N[C@H](CNC)CC1CCCCC1)=O)C)OCCNC(OC)=O | C25H41ClN4O4
